US09376422B2
Step 6: Synthesis of methyl 3-[(4-{[(tert-butoxy)carbonyl]amino}cyclohexyl)amino]-5-chloro-2-ethylbenzoate
To a stirred solution of methyl 3-amino-5-chloro-2-ethylbenzoate (365 mg, 1.7 mmol) in 1,2-dichloroethane (20 ml) under nitrogen, was added tert-butyl (4-oxocyclohexyl)carbamate (364 mg, 1.7 mmol) followed by acetic acid (587 μl, 10.3 mmol). The solution was stirred for 10 minutes before the portionwise addition of sodium triacetoxyborohydride (1.09 g, 5.1 mmol) over 1 hour. The resulting solution was stirred at room temperature for 17 hours, before treating with tert-butyl (4-oxocyclohexyl)carbamate (364 mg, 1.7 mmol). The reaction mixture was stirred for 30 minutes and then treated with sodium triacetoxyborohydride (1.09 g, 5.1 mmol) over 2.5 hours. The reaction mixture was stirred at room temperature for a further 26 hours before addition of deionized water (40 ml). The mixture was neutralised with solid NaHCO3 (2.95 g) and was extracted with ethyl acetate (3×50 ml). The combined organic extracts were washed with brine (35 ml), dried (MgSO4), filtered and concentrated in-vacuo. The crude residue was purified by column chromatography (25 g SNAP cartridge, Isolera, 0-18% EtOAc/Heptanes) to give as an oil the title compound (623 mg, 85%) as a mixture of cis/trans isomers. LC-MS 46.1%, 2.61 min (3.5 minute LC-MS method), m/z=411.1, 413.1 and 50.2%, 2.66 min (3.5 minute LC-MS method), m/z=411.1, 413.1; 1H NMR (500 MHz, Chloroform-d) d ppm 7.05 (dd, J=7.09, 2.05 Hz, 1H) 6.68 (t, J=2.36 Hz, 1H) 4.36-4.63 (m, 1H) 3.88 (d, J=3.31 Hz, 3H) 3.62-3.78 (m, 1H) 3.49 (br. s., 1H) 3.23 (br. s., 1H) 2.63-2.76 (m, 2H) 2.07-2.18 (m, 2H) 1.77-1.89 (m, 2H) 1.69 (br. s., 1H) 1.46 (s, 9H) 1.27 (m, 3H) 1.13-1.24 (m, 3H).

reactant | methyl 3-amino-5-chloro-2-ethylbenzoate | 1.7 mmol, 365 mg | NC=1C(=C(C(=O)OC)C=C(C1)Cl)CC | C10H12ClNO2
reactant | tert-butyl (4-oxocyclohexyl)carbamate | 1.7 mmol, 364 mg | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | acetic acid | 10.3 mmol, 587 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 5.1 mmol, 1.09 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | tert-butyl (4-oxocyclohexyl)carbamate | 1.7 mmol, 364 mg | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | sodium triacetoxyborohydride | 5.1 mmol, 1.09 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 2.95 g | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | water | 40 ml | O | H2O
product | methyl 3-[(4-{[(tert-butoxy)carbonyl]amino}cyclohexyl)amino]-5-chloro-2-ethylbenzoate | 623 mg, 85% | C(C)(C)(C)OC(=O)NC1CCC(CC1)NC=1C(=C(C(=O)OC)C=C(C1)Cl)CC | C21H31ClN2O4
